US04841067
A mixture of 100 mg of (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane, 2 g of dry silica gel and 2 ml of benzyl alcohol was heated at 100° C. for 16 hours. After filtration of the silica gel, the filtrate was evaporated under reduced pressure to obtain 105 mg of (2RS, 3S)-3-carbobenzoxyamino-2-hydroxy-5-methylhexyl benzyl ether as a colorless oil. To a solution of 86 mg of the ether obtained in 10 ml of methanol was added 0.14 ml of a 2N-hydrochloric acid, and the mixture was hydrogenated over 17 mg of palladium charcoal under hydrogen atmosphere. After filtration of the catalyst, the filtrate was evaporated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: lower layer of chloroform/methanol/water=8/3/1 by volume) to obtain 17 mg of (2RS, 3S)-3-amino-2-hydroxy-5-methylhexyl benzyl ether hydrochloride as a colorless viscous oil.

reactant | (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane | 100 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C1CO1)CC(C)C | C15H21NO3
reactant | benzyl alcohol | 2 ml | C(C1=CC=CC=C1)O | C7H8O
product | (2RS, 3S)-3-carbobenzoxyamino-2-hydroxy-5-methylhexyl benzyl ether | 105 mg | C(C1=CC=CC=C1)OCC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)O | C22H29NO4
